US05585391
Preparation of sodium N,N-bis-(2-hydroxyethyl)aminoacetate
N,N-Bis-(2-hydroxyethyl)aminoacetic acid (364.933 grams, 2.2144 moles) (this material is 99% pure; it contains 1% or 3.613 grams of H2O) is added with stirring to a cooled solution of pure sodium hydroxide (88.57 grams, 2.2144 moles) in pyrogen-free distilled water (400 ml.). The mixture is stirred until solution is effected. After reaching room temperature, the solution is stirred while enough pyrogen-free distilled water is added to make the total volume 1,000 ml. The solution is sterilized by filtration. This solution is 41% or 2.2144 molar in sodium N,N-bis-(2-hydroxyethyl)aminoacetate.

reactant | N,N-Bis-(2-hydroxyethyl)aminoacetic acid | 2.2144 moles, 364.933 grams | OCCN(CCO)CC(=O)O | C6H13NO4
reactant | sodium hydroxide | 2.2144 moles, 88.57 grams | [OH-].[Na+]
solvent | H2O | 3.613 grams | O | H2O
product | sodium N,N-bis-(2-hydroxyethyl)aminoacetate | OCCN(CCO)CC(=O)[O-].[Na+] | InChI=1S/C6H13NO4.Na/c8-3-1-7(2-4-9)5-6(10)11;/h8-9H,1-5H2,(H,10,11);/q;+1/p-1
